US06325876B1
A mixture of 17.85 g of 1,5-dichloropentan-3-one, 92 mL of trifluoroacetic acid, and 34.55 g of sodium trifluoroacetate was stirred and heated at 75° C. for 64 hours. The mixture was allowed to cool to room temperature, was poured over crushed ice, and a product of 1,5-bis(trifluoroacetoxy)pentan-3-one was extracted with dichloromethane. After drying with MgSO4, filtering, and removal of the solvent, 24.4 g of crude 1,5-bis(trifluoroacetoxy)pentan-3-one product was obtained. Analysis of the 1,5-bis(trifluoroacetoxy)pentan-3-one showed 1HNMR (CDCl3, TMS ref.): 2.94 (t, 4H), 4.63 (t, 4H) ppm.

reactant | 1,5-dichloropentan-3-one | 17.85 g | ClCCC(CCCl)=O | C5H8Cl2O
reactant | trifluoroacetic acid | 92 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium trifluoroacetate | 34.55 g | FC(C(=O)[O-])(F)F.[Na+]
product | 1,5-bis(trifluoroacetoxy)pentan-3-one | 24.4 g | FC(C(=O)OCCC(CCOC(C(F)(F)F)=O)=O)(F)F | C9H8F6O5
